US04582839
A mixed solution of 5-{4-[2-hydroxy-2-(6-methyl-2-pyridyl)ethoxy]benzyl}-2,4-thiazolidinedione (350 mg), pyridine (5 ml) and acetic anhydride (0.2 ml) was allowed to stand at room temperature for 2 days, and then poured in water, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and freed of the solvent. The residue was chromatographed on a silica gel (20 g) column, and elution was effected with benzene-acetone (15:1, V/V) to give 5-{4-[2-acetoxy-2-(6-methyl-2-pyridyl)ethoxy]benzyl}-2,4-thiazolidinedione in the form of an oily substance. Yield of 360 mg (89.8%). IR (neat): 1740, 1690, 1230 cm-1. NMR (CDCl3)δ: 211(3H,s), 2.51(3H,s), 3.02 (1H,dd,J=14 and 9 Hz), 3.41(1H,dd,J=14 and 4 Hz), 4.37(2H,d, J=5 Hz), 4.44(1H,dd,J=9 and 4 Hz), 6.13(1H,t,J=5 Hz), 6.83(2H, d,J=9 Hz), 7.09(2H,d,J=9 Hz), 7.0-7.7(3H,m).

reactant | 5-{4-[2-hydroxy-2-(6-methyl-2-pyridyl)ethoxy]benzyl}-2,4-thiazolidinedione | 350 mg | OC(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C1=NC(=CC=C1)C | C18H18N2O4S
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 5-{4-[2-acetoxy-2-(6-methyl-2-pyridyl)ethoxy]benzyl}-2,4-thiazolidinedione | C(C)(=O)OC(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C1=NC(=CC=C1)C | C20H20N2O5S
